US08008501B2
6-Bromo-2-chloroquinoline-4-carbonyl chloride (500 mg) and 4-amino-5-methyl-3-phenylisoxazole (400 mg) were dissolved in dichlorormethane (15 mL) and pyridine (1 mL). The reaction solution was heated at 70° C. overnight. The white precipitation was collected by filtration, washed with ethyl acetate and dried to give 6-bromo-2-chloro-N-(5-methyl-3-phenylisoxazol-4-yl)-4-quinolinecarboxamide (520 mg) as a white solid. 1H NMR (DMSO-d6): δ 2.52 (s, 3H), 7.52 (m, 3H), 7.72 (m, 2H), 8.02 (m, 4H), 10.58 (s, 1H); LCMS: ret. time: 32.23 min.; purity: 100%; MS (m/e): 441.82 (M+).

reactant | 6-Bromo-2-chloroquinoline-4-carbonyl chloride | 500 mg | BrC=1C=C2C(=CC(=NC2=CC1)Cl)C(=O)Cl | C10H4BrCl2NO
reactant | 4-amino-5-methyl-3-phenylisoxazole | 400 mg | NC=1C(=NOC1C)C1=CC=CC=C1 | C10H10N2O
solvent | pyridine | 1 mL | N1=CC=CC=C1 | C5H5N
product | 6-bromo-2-chloro-N-(5-methyl-3-phenylisoxazol-4-yl)-4-quinolinecarboxamide | 520 mg | BrC=1C=C2C(=CC(=NC2=CC1)Cl)C(=O)NC=1C(=NOC1C)C1=CC=CC=C1 | C20H13BrClN3O2
